US06914058B2
{1-[3-Fluoro-4-(1-imino-1lambda*4*-thiomorpholin-4-yl)-phenyl]-1H-[1,2,3]triazol-4-ylmethyl}-thiocarbamic acid O-methyl ester
To an ice-cooled solution of the 4-[4-(4-aminomethyl-[1,2,3]triazol-1-yl)-2-fluoro-phenyl]-1-imino-1lambda*4*-thiomorpholine (100 mg, 0.3 mmol), obtained in Example 32 in CHCl3 (10 ml) was added sat. sodium bicarbonate solution followed by thiophosgene (36 μl, 0.33 mmol). The reaction mixture was stirred at room temperature for 0.5 h and then diluted with ethyl acetate (30 ml). The organic portion was washed with water followed by brine and dried over sodium sulfate. Evaporation of volatiles left a residue, which was refluxed with methanol (20 ml) for 20 h. Removal of volatiles and purification of the resulting residue by silica gel column chromatography (CHCl3/MeOH, 1:4) yielded the title compound as white solid (70 mg, 71%). Mp. 198° C.

reactant | 4-[4-(4-aminomethyl-[1,2,3]triazol-1-yl)-2-fluoro-phenyl]-1-imino-1lambda*4*-thiomorpholine | 0.3 mmol, 100 mg | NCC=1N=NN(C1)C1=CC(=C(C=C1)N1CCS(CC1)=N)F | C13H17FN6S
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
reactant | thiophosgene | 0.33 mmol, 36 μl | C(=S)(Cl)Cl | CCl2S
solvent | CHCl3 | 10 ml | C(Cl)(Cl)Cl | CHCl3
solvent | ethyl acetate | 30 ml | C(C)(=O)OCC | C4H8O2
product | {1-[3-Fluoro-4-(1-imino-1lambda*4*-thiomorpholin-4-yl)-phenyl]-1H-[1,2,3]triazol-4-ylmethyl}-thiocarbamic acid O-methyl ester | 70 mg, 71% | COC(NCC=1N=NN(C1)C1=CC(=C(C=C1)N1CCS(CC1)=N)F)=S | C15H19FN6OS2
